US06291452B1
A mixture of N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-9-methyl-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-acetylphenyl)urea (217 mg) and hydroxylamine-hydrochloride (124 mg), triethylamine (180 mg) in tetrahydrofuran (4 ml) was stirred at room temperature overnight. Ethyl acetate and 1N aqueous hydrochloric acid solution were added the reaction mixture. The separated organic layer was washed with 1N aqueous hydrochloric acid twice, saturated aqueous sodium bicarbonate and brine successively and then dried over magnesium sulfate. The solvent was evaporated in vacuo to afford N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-9-methyl-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-[3-(1-hydroxyiminoethyl)phenyl]urea (235.0 mg) as a crystalline powder.

reactant | N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-9-methyl-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-(3-acetylphenyl)urea | 217 mg | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C(=CC=C1)C)C1=C(C=CC=C1)F)NC(=O)NC1=CC(=CC=C1)C(C)=O)=O | C35H36FN5O4
reactant | hydroxylamine-hydrochloride | 124 mg | Cl.NO
reactant | triethylamine | 180 mg | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(3RS)-1-(3-azabicyclo[3.2.2]non-3-yl)carbonylmethyl-2,3-dihydro-9-methyl-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N′-[3-(1-hydroxyiminoethyl)phenyl]urea | 235.0 mg | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C(=CC=C1)C)C1=C(C=CC=C1)F)NC(=O)NC1=CC(=CC=C1)C(C)=NO)=O | C35H37FN6O4
